US09259470B2
A mixture of benzyl 2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate (0.50 g, 2.0 mmol) and Pd/C (10%, 50 mg) in methanol (20 mL) was stirred under hydrogen atmosphere (1 atm) at room temperature for 16 hours. After completion of the reaction, the reaction mixture was adjusted to pH around 4 by 1M HCl in methanol. The mixture was filtered through Celite® and concentrated under reduced pressure to give 2-oxa-bicyclo[2.2.1]heptan-5-amine hydrochloride (300 mg, 100% yield) as a solid. 1H NMR (500 MHz, CD3OD) δ 4.43 (s, 1H), 3.72-3.70 (m, 1H), 3.54 (d, J=7.5 Hz, 1H), 3.50-3.48 (m, 1H), 2.76 (s, 1H), 2.20-2.15 (m, 1H), 1.96 (d, J=11.0 Hz, 1H), 1.78 (d, J=11.0 Hz, 1H), 1.61 (d, J=11.0 Hz, 1H).

reactant | benzyl 2-oxa-bicyclo[2.2.1]heptan-5-ylcarbamate | 2.0 mmol, 0.50 g | C12OCC(C(C1)NC(OCC1=CC=CC=C1)=O)C2 | C14H17NO3
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 2-oxa-bicyclo[2.2.1]heptan-5-amine hydrochloride | 300 mg, 100% yield | Cl.C12OCC(C(C1)N)C2 | InChI=1S/C6H11NO.ClH/c7-6-2-5-1-4(6)3-8-5;/h4-6H,1-3,7H2;1H
